US06313311B1
c) 6-Hydroxymethyl-1-(1H-imidazol-4-ylmethyl)-indan-5-ol
Sodium borohydride (10 mg) is added into a solution of 6-hydroxy-3-(1H-imidazol-4-ylmethyl)-indan-5-carbaldehyde (58 mg) in ethanol (10 ml). The mixture is stirred at room temperature for one hour and then poured into water. Work-up of the mixture gives the crude product which is purified by flash chromatography and recrystallized from ethyl acetate.

reactant | Sodium borohydride | 10 mg | [BH4-].[Na+]
reactant | 6-hydroxy-3-(1H-imidazol-4-ylmethyl)-indan-5-carbaldehyde | 58 mg | OC1=C(C=C2C(CCC2=C1)CC=1N=CNC1)C=O | C14H14N2O2
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-Hydroxymethyl-1-(1H-imidazol-4-ylmethyl)-indan-5-ol | OCC1=C(C=C2CCC(C2=C1)CC=1N=CNC1)O | C14H16N2O2
